US07199147B2
Under a nitrogen atmosphere, ammonium chloride (4.17 g, 0.078 mol) and potassium cyanide (6.77 g, 0.104 mol) were added to a solution of 2-cyclohexen-1-one (5.0 g, 0.052 mol) in a 15%-aqueous N,N-dimethylformamide solution (60 ml) at room temperature, and the resulting mixture was heated to 100° C. After 3 hours, the reaction solution was poured into water and extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 1-cyanocyclohexan-3-one (345.4 mg, 5.4%).

reactant | ammonium chloride | 0.078 mol, 4.17 g | [Cl-].[NH4+]
reactant | potassium cyanide | 0.104 mol, 6.77 g | [C-]#N.[K+]
reactant | 2-cyclohexen-1-one | 0.052 mol, 5.0 g | C1(C=CCCC1)=O | C6H8O
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-cyanocyclohexan-3-one | 345.4 mg, 5.4% | C(#N)C1CC(CCC1)=O | C7H9NO
